US06664259B2
To a solution of 3-Methoxy-cyclohexanecarboxylic acid (0.143 mL) in DMF (0.5 mL) was added DPPA (0.25 mL ) and TEA (0.25 mL) and the reaction heated at 70° C. After 18 hrs, 3-Amino-6-chloro-2-hydroxy-benzenesulfonamide (0.222 g) was added and the reaction heated at 70° C. After 18 hrs, the reaction mixture was quenched with water and extracted with ethyl acetate. The organic layers were dried over anhydrous magnesium sulfate, and concentraed under reduced pressure. The crude residue was purified via HPLC to give 3 mg of 6-Chloro-2-hydroxy-3-[3-(3-methoxy-cyclohexyl)-ureido]-benzenesulfonamide. LC-MS (m/z) 378 (M+).

reactant | 3-Methoxy-cyclohexanecarboxylic acid | 0.143 mL | COC1CC(CCC1)C(=O)O | C8H14O3
reactant | DPPA | 0.25 mL | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | 3-Amino-6-chloro-2-hydroxy-benzenesulfonamide | 0.222 g | NC=1C(=C(C(=CC1)Cl)S(=O)(=O)N)O | C6H7ClN2O3S
reactant | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 6-Chloro-2-hydroxy-3-[3-(3-methoxy-cyclohexyl)-ureido]-benzenesulfonamide | 3 mg | ClC1=CC=C(C(=C1S(=O)(=O)N)O)NC(=O)NC1CC(CCC1)OC | C14H20ClN3O5S
